US04360521
1.2 g of sodium hydride are added portionwise to a solution, cooled to 15°, of 4.66 g of 5-amino-7-[3,6-dihydro-1(2H)-pyridyl]-2H-[1,2,4]oxadiazolo[2,3-c]pyrimidin-2-one in 200 ml of dimethylformamide. The mixture is stirred vigorously at room temperature for 30 minutes. Thereafter, 5.28 g of 1-methoxycarbonylbenzimidazole in 50 ml of dimethylformamide are added thereto. After 2 hours, the mixture is treated with ice-cold water and adjusted to pH 5 with glacial acetic acid. The precipitate which results is recrystallized from methylene chloride/methanol, and there is obtained methyl 7-[3,6-dihydro-1(2H)-pyridyl]-2-oxo-2H-[1,2,4]oxadiazolo[2,3-c]pyrimidine-5-carbamate, m.p. 212°-214°

reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | 5-amino-7-[3,6-dihydro-1(2H)-pyridyl]-2H-[1,2,4]oxadiazolo[2,3-c]pyrimidin-2-one | 4.66 g | NC1=NC(=CC=2N1OC(N2)=O)N2CCC=CC2 | C10H11N5O2
reactant | 1-methoxycarbonylbenzimidazole | 5.28 g | COC(=O)N1C=NC2=C1C=CC=C2 | C9H8N2O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | methyl 7-[3,6-dihydro-1(2H)-pyridyl]-2-oxo-2H-[1,2,4]oxadiazolo[2,3-c]pyrimidine-5-carbamate | N1(CCC=CC1)C1=CC=2N(C(=N1)NC(=O)OC)OC(N2)=O | C12H13N5O4
